US09284323B2
Preparation of (S)-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate:
To a solution of 7-bromo-3-methylnaphthalen-1-ol (11.8 g, 50.0 mmol) in dichloromethane (25 mL) at −40° C. was added a 1 M titanium(IV) chloride solution in dichloromethane (50.0 mL, 50.0 mmol) and stirred for 20 min. (1R)-(−)-Menthyl glyoxylate hydrate (12.1 g, 52.5 mmol) was added over 15 minutes in small portions as a solid and stirred for 1 hour at 40° C. Then acetic acid (20 mL) and acetonitrile (60 mL) were added while cold. Water (200 mL) was added and the resulting solution was stirred at room temperature for 30 min. The layers were separated, and the aqueous layer was extracted with CH2Cl2. The combined organic layer was dried, filtered, concentrated. The crude material, which was about 8:1 d.r., was taken on without further purification.

reactant | 7-bromo-3-methylnaphthalen-1-ol | 50.0 mmol, 11.8 g | BrC1=CC=C2C=C(C=C(C2=C1)O)C | C11H9BrO
reactant | (1R)-(−)-Menthyl glyoxylate hydrate | 52.5 mmol, 12.1 g | O.C(C=O)(=O)OC1C[C@@H](CCC1C(C)C)C
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | titanium(IV) chloride | 1 M | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 50.0 mmol, 50.0 mL | ClCCl | CH2Cl2
solvent | Water | 200 mL | O | H2O
product | (S)-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate | BrC1=CC=C2C=C(C(=C(C2=C1)O)[C@@H](C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)O)C | C23H29BrO4
